US06727264B1
N-[3-(1-{[4-BROMO-1-(4-CHLOROBENZYL)-1H-PYRAZOL-5-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-bromo-1-(4-chlorobenzyl)-1H-pyrazole-5-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 529.1 (M+H)+.

reactant | 4-bromo-1-(4-chlorobenzyl)-1H-pyrazole-5-carbaldehyde | BrC=1C=NN(C1C=O)CC1=CC=C(C=C1)Cl | C11H8BrClN2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-[3-(1-{[4-BROMO-1-(4-CHLOROBENZYL)-1H-PYRAZOL-5-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | BrC=1C=NN(C1CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)CC1=CC=C(C=C1)Cl | C26H30BrClN4O
